US06719520B2
3-(3-Bromophenylamino)-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione
A solution of 3-bromoaniline (227 mL, 0.020 mol) and 3-chloro-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione (2.02 g, 0.0083 mol; prepared by analogy with the methods described in WO97/34890 and Wiley, R P H, and Slaymaker, S. C. J. Am. Chem. Soc (80) 1385 (1958)) in methanol (50 mL) was heated at reflux for 40 hours, cooled and concentrated. The residue was acidified with aqueous hydrochloric acid (1M, 200 mL) and extracted with ethyl acetate (3×200 mL). The combined organic solutions were washed with water and brine, dried with magnesium sulphate, evaporated and the residue chromatographed on silica gel using dichloromethane-diethyl ether (gradient from 100:0 to 95:5 v/v) as eluent to afford the title compound as a solid.

reactant | 3-bromoaniline | 0.020 mol, 227 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-chloro-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione | ClC=1C(NC(C1C1=CC=C(C=C1)Cl)=O)=O | C10H5Cl2NO2
solvent | methanol | 50 mL | CO | CH4O
product | 3-(3-Bromophenylamino)-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione | BrC=1C=C(C=CC1)NC=1C(NC(C1C1=CC=C(C=C1)Cl)=O)=O | C16H10BrClN2O2
